US07381741B2
cis-(3-Chloro-benzyl)-(2-Phenyl-pyrrolidin-3-yl)-amine dihydrobromide
A mixture of cis-3-amino-2-phenyl-pyrrolidine-1-carboxylic acid benzyl ester p-toluenesulfonate (0.15 g, 0.32 mmol), obtained from preparatory example 6,3-chlorobenzaldehyde (0.34 mmol), and sodium triacetoxyborohydride (0.082 g, 0.38 mmol) was stirred in 3 mL of methylene chloride at rt for 16 h. The reaction was washed 1× with 1M NaOH, dried through cotton, and concentrated to give an oil. The oil was dissolved in acetic acid (1 mL) and a solution of 30% hydrogen bromide in acetic acid (0.302 g, 1.12 mmol) was added. The solution was stirred for 16 h and the resultant solids were collected, washed with ether, and concentrated under vacuum to give 0.114 g (79%) of the title compound. 1H NMR (2HBr, CD3OD) δ 7.72-7.68 (m, 2H), 7.64-7.57 (m, 3H), 7.45-7.31 (m, 4H), 5.31-5.29 (d, J=7.46 Hz, 1H), 4.45-4.41 (q, J=7.88 Hz, 1H), 4.31-4.28 (d, J=12.85 Hz, 1H), 4.04-4.01 (d, J=12.85 Hz, 1H), 3.97-3.91 (ddd, J=12.13, 9.33, 2.90 Hz, 1H), 3.62-3.54 (m, 1H), 2.89-2.81 (m, 1H), 2.66-2.56 (m, 1H). MS APCI: [M+H]+=287.2.

reactant | cis-3-amino-2-phenyl-pyrrolidine-1-carboxylic acid benzyl ester p-toluenesulfonate | 0.32 mmol, 0.15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H](CC1)N)C1=CC=CC=C1
reactant | sodium triacetoxyborohydride | 0.38 mmol, 0.082 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrogen bromide | Br | BrH
reactant | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.12 mmol, 0.302 g | C(C)(=O)O | C2H4O2
product | cis-(3-Chloro-benzyl)-(2-Phenyl-pyrrolidin-3-yl)-amine dihydrobromide | 0.114 g, 79% | Br.Br.ClC=1C=C(CN[C@@H]2[C@@H](NCC2)C2=CC=CC=C2)C=CC1 | InChI=1S/C17H19ClN2.2BrH/c18-15-8-4-5-13(11-15)12-20-16-9-10-19-17(16)14-6-2-1-3-7-14;;/h1-8,11,16-17,19-20H,9-10,12H2;2*1H/t16-,17-;;/m0../s1
